### PR TITLE
Refactor, reshuffle, and rename sorting lemmas in `path.v`

### PR DESCRIPTION
**Pull request by pi8027**
##### Motivation for this change

Part of #601.

- Lemmas `sorted_(lt|le)_nth` have been renamed to `sorted_(ltn|leq)_nth`.
- Lemmas `(ltn|leq)_index` have been renamed to `sorted_(ltn|leq)_index` and generalized for non-`eqType`s.
- Lemmas `order_path_min`, `path_sortedE`, `subseq_order_path`, `subseq_sorted`, `sorted_uniq`, `sorted_eq`, `irr_sorted_eq`, `sorted_(ltn|leq)_nth`, and `sorted_(ltn|leq)_index` have been relocated since their proofs are independent from `merge` and `sort`.
- The stability proofs for `iota` sequences (`push_stable`, `pop_stable`, and `sort_iota_stable`) have been simplified by sorting out their hypotheses and by redefining `push_invariant` to include the `sorted` condition. Their main result `sort_iota_stable`, formerly a local `Let` to prove `sort_stable`, has been turned into a lemma.
- Some stability proofs for general sequences (`sort_stable` and `filter_sort`) have also been simplified, of which the former one uses the above `sorted_ltn_nth` lemma for a `Type` without decidable equality.

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
- ~[ ] added corresponding documentation in the headers~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

File: mathcomp/ssreflect/path.v [hunk 1]
```diff
@@ -375,6 +409,75 @@ Arguments mono_path {T T' f e e' x s}.
...
+
+Variables (T : eqType) (leT : rel T).
+Implicit Type s : seq T.
+
+Local Notation path := (path leT).
+Local Notation sorted := (sorted leT).
+
+Hypothesis leT_tr : transitive leT.
+
+Lemma subseq_order_path x s1 s2 : subseq s1 s2 -> path x s2 -> path x s1.
```
Comment (pi8027) [inline mathcomp/ssreflect/path.v:422]: Should this also be renamed to `subseq_path`? (Does `order` stand for transitivity here?)

File: mathcomp/ssreflect/path.v [hunk 2]
```diff
@@ -933,120 +972,93 @@ Qed.
...
+elim: (ss) [:: _] => [|[|? ?] ? ihss] //= ?.
+by rewrite ihss !size_cat size_merge size_cat -addnA addnCA.
 Qed.
 
-Lemma filter_sort p s : filter p (sort leT s) = sort leT (filter p s).
+End Stability_iota.
+
+Lemma sort_stable T (leT leT' : rel T) :
+  total leT -> transitive leT -> transitive leT' ->
+  forall s : seq T, sorted leT' s ->
```
Comment (chdoc) [inline mathcomp/ssreflect/path.v:1030]:
```suggestion
Lemma sort_stable T (leT leT' : rel T) (s: seq T) : 
  total leT -> transitive leT -> transitive leT' -> sorted leT' s ->
```

File: mathcomp/ssreflect/path.v [hunk 3]
```diff
@@ -933,120 +972,93 @@ Qed.
...
+Lemma filter_sort T (leT : rel T) :
+  total leT -> transitive leT ->
+  forall p s, filter p (sort leT s) = sort leT (filter p s).
+Proof.
+move=> leT_total leT_tr p s; case Ds: s => // [x s1].
+pose leN := xrelpre (nth x s) leT.
+pose le_lex := [rel n m | leN n m && (leN m n ==> (n < m))].
+have leN_total: total leN by move=> ? ?; apply: leT_total.
+have leN_tr: transitive leN by move=> ? ? ?; apply: leT_tr.
+have le_lex_irr: irreflexive le_lex by move=> n /=; rewrite ltnn implybF andbN.
```
Comment (chdoc) [inline mathcomp/ssreflect/path.v:1050]: To me, this looks like the change to the `Stability` section is not yet ideal. Maybe the transfer from `rel T` to `rel nat` can be be factored out?

File: mathcomp/ssreflect/path.v [hunk 4]
```diff
@@ -933,120 +972,93 @@ Qed.
...
+  sorted [rel x y | leT x y && (leT y x ==> leT' x y)] (sort leT s).
 Proof.
-case Ds: s => // [x s1]; rewrite -{s1}Ds.
-rewrite -(mkseq_nth x s) !(filter_map, sort_map).
-congr map; apply/(@irr_sorted_eq _ (le_lex x s)) => //.
-- by move=> ?; rewrite /= ltnn implybF andbN.
-- exact/sorted_filter/sort_stable/iota_ltn_sorted/ltn_trans.
+move=> leT_total leT_tr leT'_tr s sorted_s; case Ds: s => // [x s1].
+rewrite -{s1}Ds -(mkseq_nth x s) sort_map.
+have leN_total: total (xrelpre (nth x s) leT) by move=> n m; apply: leT_total.
```
Comment (chdoc) [inline mathcomp/ssreflect/path.v:1035]:
```suggestion
have leN_total: total (relpre (nth x s) leT) by move=> n m; apply: leT_total.
```

File: mathcomp/ssreflect/path.v [hunk 5]
```diff
@@ -933,120 +972,93 @@ Qed.
...
+  total leT -> transitive leT -> transitive leT' ->
+  forall s : seq T, sorted leT' s ->
+  sorted [rel x y | leT x y && (leT y x ==> leT' x y)] (sort leT s).
 Proof.
-case Ds: s => // [x s1]; rewrite -{s1}Ds.
-rewrite -(mkseq_nth x s) !(filter_map, sort_map).
-congr map; apply/(@irr_sorted_eq _ (le_lex x s)) => //.
-- by move=> ?; rewrite /= ltnn implybF andbN.
-- exact/sorted_filter/sort_stable/iota_ltn_sorted/ltn_trans.
+move=> leT_total leT_tr leT'_tr s sorted_s; case Ds: s => // [x s1].
```
Comment (chdoc) [inline mathcomp/ssreflect/path.v:1033]:
```suggestion
move=> leT_total leT_tr leT'_tr sorted_s; case Ds: s => // [x s1].
```

File: mathcomp/ssreflect/path.v (hunk 2 above)
Comment (pi8027) [reply mathcomp/ssreflect/path.v:1030]: I chose this ordering of arguments intentionally. Most sorting lemmas (except for `order_path_min` and `_in` lemmas for `eqType`s) take properties of relations before sequences. This PR also does not change the ordering of the arguments of `sort_stable`.

Comment (pi8027) [reply mathcomp/ssreflect/path.v:1030]: I noticed that transitivity of `leT` is not required (and not used actually) to prove `sort_stable`. Let me fix it.

File: mathcomp/ssreflect/path.v (hunk 3 above)
Comment (pi8027) [reply mathcomp/ssreflect/path.v]: The problem here is that `filter_sort` has to use `sort_stable` for a `seq nat` obtained by the `mkseq` technique and it does not allow us to factor out some intermediate steps of them using sections. Anyway, I managed to prove this with fewer `have` in the last revision. Do you still see any possible improvement?

Comment (chdoc) [reply mathcomp/ssreflect/path.v]: I'm not sure what you mean. My ideas were along the lines of:
```coq
Section LeLex.

Variables (T : Type) (leT : rel T) (x0 : T) (s : seq T).

Let leN := relpre (nth x0 s) leT.
Definition le_lex := [rel n m | leN n m && (leN m n ==> (n < m))].

Lemma le_lex_trans : transitive leT -> transitive le_lex.
Proof.
move=> leT_tr. rewrite /le_lex /leN => ? ? ? /= /andP [xy xy'] /andP [yz yz'].
rewrite (leT_tr _ _ _ xy yz); apply/implyP => zx; move: xy' yz'.
by rewrite (leT_tr _ _ _ yz zx) (leT_tr _ _ _ zx xy); apply: ltn_trans.
Qed.

Lemma le_lex_irr : irreflexive le_lex. 
Proof. by move=> x; rewrite /le_lex/leN/= ltnn implybF andbN. Qed.

End LeLex.

Arguments le_lex_trans [T leT] x0 s.

Lemma filter_sort T (leT : rel T) :
  total leT -> transitive leT ->
  forall p s, filter p (sort leT s) = sort leT (filter p s).
Proof.
move=> leT_total leT_tr p s; case Ds: s => // [x s1].
rewrite -{s1}Ds -(mkseq_nth x s) !(filter_map, sort_map); congr map.
have ? : total (relpre (nth x s) leT) by move=> n m; apply: leT_total.
have le_lex_tr := le_lex_trans x s leT_tr.
apply: (irr_sorted_eq le_lex_tr (le_lex_irr leT x s)). 
- exact/sorted_filter/sort_iota_stable. 
- exact/sort_stable/sorted_filter/iota_ltn_sorted/ltn_trans/ltn_trans.
- by move=> ?; rewrite !(mem_filter, mem_sort).
Qed.
```
I'm not sure `le_lex` is a good global name, but I think the pattern of turning an order on `T` into an corresponding order on `nat` is quite generic. I'm surprised this is only needed once...

Comment (pi8027) [reply mathcomp/ssreflect/path.v]: @chdoc In your code above, `le_lex` is a combination of two things: 1. lexicographic ordering and 2. turning an order on elements of a sequence into a corresponding order on `nat` using `nth`. If I declare it globally, I would rather split it into these two parts and parameterize the former one to take two relations, but it would also make this proof script lengthy. So I would like to keep the current one for now.

A possible solution to this issue would be using canonical structures to infer properties of relations, but this should be another PR.

Comment (chdoc) [reply mathcomp/ssreflect/path.v]: I wasn't suggesting that my comment is the final version, but I am strongly in favor of making the constructions explicit. You're also proving totality of the `relpre`+`nth` construction twice (I know, it's a one-liner). Maybe @CohenCyril has an opinion on this; his review is still outstanding. 

Also, I'm not sure what's the connection to "lexicographic ordering", which I understand as the extension of an order from a type to sequences/words over that type, as done in dictionaries. But maybe that term is ambiguous.

Comment (CohenCyril) [reply mathcomp/ssreflect/path.v]: I agree with Kazuhiko, there is no further sensible refactoring that I can identify here.
It does not save space nor document better things to try and factor out `le_lex`.

@pi8027, the only suggestion, which is obviously nitpicking, I have to make is, since the relation `le_lex` (local to the proof of `filter_sort`) is irreflexive it should be named `lt_lex` instead.

@chdoc, yes this is the lexicographic ordering on `nat * nat` with respective order relations `leN` and `ltn`. Although the notion only appears later, in `order`... But it's ok to duplicate the proof of transitivity & irreflexivity of a (strict) lexicographic ordering for the sake of not bringing the whole of `order` in there and risking circular dependencies or huge refactorings....

File: mathcomp/ssreflect/path.v [hunk 6]
```diff
@@ -933,120 +972,90 @@ Qed.
...
 
-Variables (T : Type) (leT leT' : rel T).
-Variables (leT_total : total leT) (leT_tr : transitive leT).
-Variables (leT'_tr : transitive leT').
+Variables (leN : rel nat) (leN_total : total leN) (leN_tr : transitive leN).
 
-Local Notation leN x sT := (xrelpre (nth x sT) leT).
-Local Notation le_lex x sT :=
-  [rel n m | leN x sT n m && (leN x sT m n ==> (n < m))].
+Let le_lex := [rel n m | leN n m && (leN m n ==> (n < m))].
```
Comment (CohenCyril) [inline mathcomp/ssreflect/path.v:979]:
```suggestion
Let lt_lex := [rel n m | leN n m && (leN m n ==> (n < m))].
```

File: mathcomp/ssreflect/path.v [hunk 7]
```diff
@@ -933,120 +972,90 @@ Qed.
...
 
 Local Arguments iota : simpl never.
 Local Arguments size : simpl never.
+Local Arguments cat : simpl never.
 
 Let push_invariant := fix push_invariant (ss : seq (seq nat)) :=
   if ss is s :: ss' then
-    perm_eq s (iota (size (flatten ss')) (size s)) && push_invariant ss'
+    sorted le_lex s && perm_eq s (iota (size (flatten ss')) (size s)) &&
```
Comment (CohenCyril) [inline mathcomp/ssreflect/path.v:987]:
```suggestion
    sorted lt_lex s && perm_eq s (iota (size (flatten ss')) (size s)) &&
```

File: mathcomp/ssreflect/path.v [hunk 8]
```diff
@@ -933,120 +972,90 @@ Qed.
...
+rewrite merge_stable_sorted // (perm_all _ perm_s2); apply/allP => n.
+rewrite mem_iota (perm_all _ perm_s1) => /andP [_ n_lt]; apply/allP => p.
+by rewrite mem_iota size_cat addnC => /andP [] /(leq_trans n_lt).
 Qed.
 
-Lemma sort_stable s :
-    sorted leT' s ->
-  sorted [rel x y | leT x y && (leT y x ==> leT' x y)] (sort leT s).
+Let pop_stable s1 ss :
+  push_invariant (s1 :: ss) -> sorted le_lex (merge_sort_pop leN s1 ss).
```
Comment (CohenCyril) [inline mathcomp/ssreflect/path.v:1004]:
```suggestion
  push_invariant (s1 :: ss) -> sorted lt_lex (merge_sort_pop leN s1 ss).
```

File: mathcomp/ssreflect/path.v [hunk 9]
```diff
@@ -933,120 +972,90 @@ Qed.
...
-
-Variables (T : Type) (leT : rel T).
-Variables (leT_total : total leT) (leT_tr : transitive leT).
-
-Local Notation leN x sT := (xrelpre (nth x sT) leT).
-Local Notation le_lex x sT :=
-  [rel n m | leN x sT n m && (leN x sT m n ==> (n < m))].
-
-Let le_lex_transitive x sT : transitive (le_lex x sT).
+Lemma sort_iota_stable n : sorted le_lex (sort leN (iota 0 n)).
```
Comment (CohenCyril) [inline mathcomp/ssreflect/path.v:1014]:
```suggestion
Lemma sort_iota_stable n : sorted lt_lex (sort leN (iota 0 n)).
```

File: mathcomp/ssreflect/path.v [hunk 10]
```diff
@@ -933,120 +972,90 @@ Qed.
...
+Proof.
+move=> leT_total leT_tr p s; case Ds: s => // [x s1].
+pose leN := relpre (nth x s) leT.
+pose le_lex := [rel n m | leN n m && (leN m n ==> (n < m))].
+have le_lex_tr: transitive le_lex.
+  rewrite /le_lex /leN => ? ? ? /= /andP [xy xy'] /andP [yz yz'].
+  rewrite (leT_tr _ _ _ xy yz); apply/implyP => zx; move: xy' yz'.
+  by rewrite (leT_tr _ _ _ yz zx) (leT_tr _ _ _ zx xy); apply: ltn_trans.
+rewrite -{s1}Ds -(mkseq_nth x s) !(filter_map, sort_map); congr map.
+apply/(@irr_sorted_eq _ le_lex); rewrite /le_lex /leN //=.
```
Comment (CohenCyril) [inline mathcomp/ssreflect/path.v:1052]:
```suggestion
pose lt_lex := [rel n m | leN n m && (leN m n ==> (n < m))].
have lt_lex_tr: transitive lt_lex.
  rewrite /lt_lex /leN => ? ? ? /= /andP [xy xy'] /andP [yz yz'].
  rewrite (leT_tr _ _ _ xy yz); apply/implyP => zx; move: xy' yz'.
  by rewrite (leT_tr _ _ _ yz zx) (leT_tr _ _ _ zx xy); apply: ltn_trans.
rewrite -{s1}Ds -(mkseq_nth x s) !(filter_map, sort_map); congr map.
apply/(@irr_sorted_eq _ lt_lex); rewrite /lt_lex /leN //=.
```

**Review by CohenCyril — APPROVED** [review]
Aside from the renaming, this PR looks good to me.
Actually, it's amazing to witness the simplifications you made.

File: mathcomp/ssreflect/path.v (hunk 1 above)
Comment (CohenCyril) [reply mathcomp/ssreflect/path.v:422]: I think so. I'm ok with the renaming.

**Comment by CohenCyril** [comment]
@chdoc do you approve as well?

File: mathcomp/ssreflect/path.v (hunk 3 above)
Comment (pi8027) [reply mathcomp/ssreflect/path.v]: > Also, I'm not sure what's the connection to "lexicographic ordering", which I understand as the extension of an order from a type to sequences/words over that type, as done in dictionaries. But maybe that term is ambiguous.

> @chdoc, yes this is the lexicographic ordering on `nat * nat` with respective order relations `leN` and `ltn`, ...

I meant that the following relation can be seen as (a generalization of) lexicographic ordering:
```coq
Definition lexord (T : Type) (leT leT' : rel T) : rel T :=
  [rel x y | leT x y && (leT y x ==> leT' x y)].
```
In the case of that `T` is a product type and `leT` and `leT'` compare its first and second component respectively, `lexord` is the lexicographic ordering of products. Since order structures require `<=%O` to be antisymmetric, this generalization does not make sense in `order.v`.

File: mathcomp/ssreflect/path.v (hunk 1 above)
Comment (pi8027) [reply mathcomp/ssreflect/path.v]: Done.

**Comment by CohenCyril** [comment]
Given the problem with ci-fscl-pcm, maybe `subseq_order_path` renaming can wait until we switch to Coq's deprecation mechanism?

**Comment by pi8027** [comment]
> Given the problem with ci-fscl-pcm, maybe `subseq_order_path` renaming can wait until we switch to Coq's deprecation mechanism?

One more placeholder was missing in the deprecation notation. Should be ok now.

**Comment by CohenCyril** [comment]
@chdoc do you approve?

**Review by chdoc — APPROVED** [review]
Well, since my only concern was of no concern to you. :man_shrugging: 
Approved!
